US08022062B2
4-Azidomethyl-1-bromo-2-fluoro-benzene:
Add sodium azide (2.912 g, 44.8 mmol) to a solution of 4-bromo-3-fluorobenzyl bromide (6 g, 22.4 mmol) in anhydrous DM (127 mL) at room temperature under nitrogen. Heat the mixture at 90° C. for 1 h. Concentrate in vacuo and partition the residue between water and EtOAc. Extract the aqueous phase twice with EtOAc. Wash the combined organics extracts with iced-water. Dry the organic layer over Na2SO4, filter and concentrate in vacuo to obtain the desired intermediate as a solid (4.92 g, 96%).

reactant | sodium azide | 44.8 mmol, 2.912 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-bromo-3-fluorobenzyl bromide | 22.4 mmol, 6 g | BrC1=C(C=C(CBr)C=C1)F | C7H5Br2F
product | 4-Azidomethyl-1-bromo-2-fluoro-benzene | 4.92 g, 96% | N(=[N+]=[N-])CC1=CC(=C(C=C1)Br)F | C7H5BrFN3
